US08975254B2
b) (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile
The title compound was prepared from 2-chloro-3-fluoro-4-(1H-pyrazol-5-yl)benzonitrile (0.075 g, 0.34 mmol) and (S)-tert-butyl (1-hydroxypropan-2-yl)-carbamate (0.059 g, 0.34 mmol) using the method of Example 34(c) to afford 0.051 g of the title product. 1H NMR (400 MHz; CDCl3): δ 1.15 (d, 3H), 1.34 (bs, 2H), 3.49 (m, 1H), 3.95 (dd, 1H), 4.16 (dd, 1H), 6.79 (dd, 1H), 7.48 (m, 1H), 7.52 (d, 1H), 8.07 (m, 1H).

reactant | 2-chloro-3-fluoro-4-(1H-pyrazol-5-yl)benzonitrile | 0.34 mmol, 0.075 g | ClC1=C(C#N)C=CC(=C1F)C1=CC=NN1 | C10H5ClFN3
reactant | (S)-tert-butyl (1-hydroxypropan-2-yl)-carbamate | 0.34 mmol, 0.059 g | OC[C@H](C)NC(OC(C)(C)C)=O | C8H17NO3
product | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 0.051 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
